US07375227B2
388A. 1-(2-Amino-1-phenyl-ethyl)-4-benzyl-piperidin-4-ol
To a suspension of 4-benzyl-piperidin-4-ol (1.0 g, 5.2 mmol), benzaldehyde (0.83 g, 7.8 mmol) and MgSO4 (0.31 g, 2.6 mmol) in 1-methyl-2-pyrrolidone (5 mL) is added acetone cyanohydrine (0.45 g, 5.2 mmol). The reaction mixture is heated at 50° C. for 2 h, then cooled to room temperature and quenched with ice (20 g) and sat. NaHCO3 (50 mL). The aqueous phase is extracted with Et2O (3×100 mL), the combined organic extracts are washed with sat. NaCl (20 mL), dried (Na2SO4), filtered and evaporated. The residue is dissolved in THF (20 mL) and added to a suspension of LiAlH4 (1.1 g, 27.6 mmol) in THF (80 mL) at 0° C. The reaction mixture is stirred for 15 h at room temperature and quenched with EtOAc (250 mL), MeOH (20 mL) and sat. NaHCO3 (5 mL). The precipitate is filtered off, washed with MeOH (20 mL) and the filtrate evaporated. Purification by preparative HPLC provides the title compound.

reactant | 4-benzyl-piperidin-4-ol | 5.2 mmol, 1.0 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | benzaldehyde | 7.8 mmol, 0.83 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | MgSO4 | 2.6 mmol, 0.31 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | acetone cyanohydrine | 5.2 mmol, 0.45 g | CC(C#N)(O)C | C4H7NO
reactant | LiAlH4 | 27.6 mmol, 1.1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | 1-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1-(2-Amino-1-phenyl-ethyl)-4-benzyl-piperidin-4-ol | NCC(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=CC=CC=C1 | C20H26N2O
